US06340687B1
Step A. 1-(6-Chloro-2-methyl-phenyl)amino-3-hydroxy-propane
A mixture of the 6-chloro-2-methyl aniline (70.8 g) and 3-bromo-1-propanol (27.8 g) was heated under nitrogen to 100° C. for 2 hours. The mixture was cooled and partitioned between dichloromethane and 1N sodium hydroxide. The organic layer was washed with 20% aqueous sodium chloride, dried over anhydrous potassium carbonate and evaporated to dryness. The residue was flash chromatographed on Merck-60 flash silica gel. Elution with a hexane-ethyl acetate gradient (from 8:1 to 3:1) provided the title compound (30.86 g, 77.5%) as a pale yellow oil, which was used as such in the next step.

reactant | 6-chloro-2-methyl aniline | 70.8 g | ClC1=CC=CC(=C1N)C | C7H8ClN
reactant | 3-bromo-1-propanol | 27.8 g | BrCCCO | C3H7BrO
product | 1-(6-Chloro-2-methyl-phenyl)amino-3-hydroxy-propane | 30.86 g, 77.5% | ClC1=CC=CC(=C1NCCCO)C | C10H14ClNO
